US07314877B2
1) Production of 4-carboxy-6-(2,3-dihydro-1-benzofuran-5-yl)-2H-pyridazin-3-one
5-Acetylcoumarane [Brown H. C., Inukai T., J. Am. Chem. Soc., 83 4825 (1961)] (5.0 g, 30.8 mmol) and diethyl ketomalonate (5.9 g, 33.9 mmol) were mixed together, and the mixture was stirred for 39 hours at 120° C. The reaction mixture was dissolved in isopropanol (100 mL), and hydrazine monohydrate (3.38 g, 67.5 mmol) was added to the resultant mixture, followed by stirring for six hours at 100° C. A 2-mol/L aqueous sodium hydroxide solution (7 mL) was added thereto, and the resultant mixture was stirred for four hours at 100° C. The reaction mixture was cooled on ice and acidified with concentrated hydrochloric acid. The formed precipitates were collected through filtration and thoroughly washed with water, followed by drying, to thereby yield 5.9 g of the title compound as a yellow powder (74.1%).

reactant | 5-Acetylcoumarane | 30.8 mmol, 5.0 g | C(C)(=O)C=1C=C2CCOC2=CC1 | C10H10O2
reactant | diethyl ketomalonate | 33.9 mmol, 5.9 g | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
reactant | hydrazine monohydrate | 67.5 mmol, 3.38 g | O.NN
reactant | sodium hydroxide | 2-mol/L, 7 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | 4-carboxy-6-(2,3-dihydro-1-benzofuran-5-yl)-2H-pyridazin-3-one | C(=O)(O)C=1C(NN=C(C1)C=1C=CC2=C(CCO2)C1)=O | C13H10N2O4
